US06403610B1
0.227 g of sodium borohydride was added portionwise over approximately 30 minutes at a temperature of less than 30° C., with stirring and under an inert atmosphere, to a mixture of 2.5 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-acetate in 40 cm3 of methanol to which had been added one drop of 5N aqueous sodium hydroxide solution. After stirring the reaction mixture for 3 hours at a temperature in the region of 20° C., 100 cm3 of water were added and then the mixture was extracted with 4 times 50 cm3 of ethyl acetate. The combined extracts were washed with 3 times 50 cm3 of water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residual oil obtained was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μm; diameter 3.2 cm; silica volume 100 cm3), elution was carried out with pure ethyl acetate, and 25-cm3 fractions were collected. The fractions comprising the expected product were combined and then concentrated as above. 2.1 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-acetate were obtained in the form of an oil with a pale yellow color. The hydrochloride was prepared in the following way: a solution of 0.5 g of the oil obtained above, dissolved in 15 cm3 of dichloromethane, was poured with stirring into 4 cm3 of a 1N solution of hydrochloric acid in diethyl ether. A product precipitated and then crystallized by addition of 25 cm3 of diethyl ether. The solid was filtered off, washed with 2 times 10 cm3 of ether, and dried under vacuum over potassium hydroxide (5 kPa) and then, to constant weight, in an oven under reduced pressure (10 Pa) at a temperature in the region of 40° C. 0.35 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-acetate dihydrochloride was obtained in the form of a solid with an off-white color.

reactant | sodium borohydride | 0.227 g | [BH4-].[Na+]
reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-acetate | 2.5 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC1CCCC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C28H38N2O4S
reactant | water | 100 cm3 | O | H2O
solvent | methanol | 40 cm3 | CO | CH4O
catalyst | sodium hydroxide | 5N, one drop | [OH-].[Na+]
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-acetate | 2.1 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC1CCCC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C28H40N2O4S
